US05922899
39 g (0.23 mol) of racemic 1-amino-1-(β-naphthyl)ethane were dissolved in 200 ml of methyl tert-butyl ether. The solution was treated with 29.5 g (0.25 mol) of methyl methoxyacetate, the reaction was started by adding 0.5 g of lipase (approximately 1,000 U/mg, Pseudomonas spec. DSM 8246), and the batch was mixed during the reaction on a vibrating table. After the reaction rate had reached 50% (check by means of gas chromatography), which was the case after approximately 48 hours, the enzyme was filtered off. The filtrate was concentrated and the concentrate taken up in dilute hydrochloric acid (300 ml) and diethyl ether (300 ml). After the ether phase had been separated off, the acid phase was re-extracted using diethyl ether. After the ether phases had been combined, dried and concentrated, 18.7 g (0.08 mol) of (R)-N-[1-(β-naphthyl)ethyl]methoxyacetamide were obtained. After addition of sodium hydroxide solution until the pH is alkaline, it was possible to extract (S)-1-amino-1-(β-naphthyl)ethane from the aqueous phase with diethyl ether. Drying and evaporation of the organic phase gave 15 g of (0.09 mol) of (S)-1-amino-1-(β-naphthyl)ethane. After reaction to give the trifluoroacetamide, the enantiomeric excess (=ee) was determined on a chiral GC column (20 m Chiralolex B-Ph) as 89.5%.

reactant | racemic 1-amino-1-(β-naphthyl)ethane | 0.23 mol, 39 g | NC(C)C1=CC2=CC=CC=C2C=C1 | C12H13N
reactant | methyl methoxyacetate | 0.25 mol, 29.5 g | COCC(=O)OC | C4H8O3
solvent | methyl tert-butyl ether | 200 ml | C(C)(C)(C)OC | C5H12O
product | (R)-N-[1-(β-naphthyl)ethyl]methoxyacetamide | 0.08 mol, 18.7 g | C1=C(C=CC2=CC=CC=C12)[C@@H](C)NC(COC)=O | C15H17NO2
